US06518264B2
0.75 g of (RS)-1-{(4-chlorophenyl)(4-formylphenyl)methyl}-3-[(3,5-difluorophenyl)(methylsulfonyl)methylene]azetidine and then 0.68 g of sodium triacetoxyborohydride are added to a solution of 0.10 g of pyrrolidine in 20 cm3 of 1,2-dichloroethane. After 20 hours at room temperature, 2 cm3 of 1 N sodium hydroxide are added, the product is extracted with 100 cm3 of dichloromethane, the organic phase is washed twice with 50 cm3 of water and then 50 cm3 of a saturated sodium chloride solution, dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue obtained is chromatographed on a silica gel column (particle size 0.04-0.06 mm, diameter 4.1 cm, height 13 cm), at an argon pressure of 0.5 bar with acetate as eluent and collecting 20 cm3 fractions. Fractions 10 to 18 are combined and then concentrated to dryness under reduced pressure (2.7 kPa). 0.39 g of (RS)-1-{(4-chlorophenyl)-[4-(pyrrolidylmethyl)phenyl]methyl}-3-[(3,5-difluorophenyl)(methylsulfonyl)methylene]azetidine is obtained in the form of a white foam [NMR spectrum in DMSO-d6, T=300K, δ in ppm (300 MHz): 1.65 (4H, m, 2CH2), 2.40 (4H,m, 2NCH2), 3.02 (3H,s, SCH3), 3.50 (2H, s, NCH2Ph), 3.85 (2H, s, NCH2), 4.20 (2H, S, NCH2), 4.75 (1H, s, NCH), between 7.15 and 7.40 (9H, m, 9CH arom.), 7.48 (2H, d, J=7 Hz, 2CH arom.)].

reactant | (RS)-1-{(4-chlorophenyl)(4-formylphenyl)methyl}-3-[(3,5-difluorophenyl)(methylsulfonyl)methylene]azetidine | 0.75 g | ClC1=CC=C(C=C1)C(N1CC(C1)=C(S(=O)(=O)C)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)C=O | C25H20ClF2NO3S
reactant | sodium triacetoxyborohydride | 0.68 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | pyrrolidine | 0.10 g | N1CCCC1 | C4H9N
reactant | sodium hydroxide | 1 N, 2 cm3 | [OH-].[Na+]
solvent | 1,2-dichloroethane | 20 cm3 | ClCCCl | C2H4Cl2
product | (RS)-1-{(4-chlorophenyl)-[4-(pyrrolidylmethyl)phenyl]methyl}-3-[(3,5-difluorophenyl)(methylsulfonyl)methylene]azetidine | 0.39 g | ClC1=CC=C(C=C1)C(N1CC(C1)=C(S(=O)(=O)C)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)CN1CCCC1 | C29H29ClF2N2O2S
